US08283353B2
4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate (1.16 g) in tetrahydrofuran (8 mL)-ethanol (2 mL) was added lithium borohydride (0.46 g), and the mixture was stirred for 18 hr. To the reaction mixture were added ethyl acetate and saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and then with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as a pale-yellow amorphous solid (0.64 g, 60%).

reactant | ethyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 1.16 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C33H36N4O4
reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | lithium borohydride | 0.46 g | [BH4-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-({4-[trans-4-(2-hydroxyethoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.64 g, 60% | OCCO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C31H34N4O3
